US06333349B1
To an ice-cold solution of trans-5-amino-6,7,8,9-tetrahydro-5H-benzocyclo hepten-6-ol (0.056 g, 0.32 mmol; example 15 a) in methylene chloride (10 ml) and triethylamine (1 ml) was added 4-benzene sulfonyl chloride (0.056 g, 0.32 mmol). The reaction mixture was stirred at 0° C. then allowed to come to room temperature for 72 hours. The reaction mixture was diluted with methylene chloride, then washed with 10% hydrochloric acid, saturated potassium hydrogen carbonate solution, dried over MgSO4, filtered and evaporated. Recrystallization from ethyl acetate/n-heptane yielded trans-5-(N-phenylsulfonylamino)-6,7,8,9-tetrahydro-5H-benzocyclo hepten-6-ol as white crystals (0.071 g, 71% yield), m.p. 128.0-128.2° C.

reactant | trans-5-amino-6,7,8,9-tetrahydro-5H-benzocyclo hepten-6-ol | N[C@H]1[C@@H](CCCC2=C1C=CC=C2)O | C11H15NO
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzene sulfonyl chloride | 0.32 mmol, 0.056 g | C1=CC=C(C=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | trans-5-(N-phenylsulfonylamino)-6,7,8,9-tetrahydro-5H-benzocyclo hepten-6-ol | 0.071 g, 71% yield | C1(=CC=CC=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC2=C1C=CC=C2)O | C17H19NO3S
